US06759414B2
D. 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-iodobenzamide
To a stirring solution of 1-Boc-isonipecotic acid (15.26 g, 66.55 mmol) in methanol (135 mL) was added sodium methoxide (3.8 g, 66.8 mmol). After stirring for 1 h, the solvent was removed in vacuo. A portion of the residue (8.92 g, 35.5 mmol) was suspended in dichloromethane (95 mL) and oxalyl chloride (4 mL, 45 mmol) was added, followed by a couple of drops of N,N-dimethylformamide. After stirring for 1 h, the solvent was removed in vacuo. The residue was suspended in dichloromethane (45 mL) and added to a solution of 2-amino-N-(5-chloropyridin-2-yl)-5-iodobenzamide (8.86 g, 23.7 mmol), N,N-diisopropylethylamine (5 mL, 28 mmol), and 4-(N,N-dimethylamino)pyridine (0.33 g, 2.7 mmol) in dichloromethane (50 mL). After stirring 19 h, the reaction mixture was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was slurried in diethyl ether and filtered to give 8.6 g (62%) of a pink solid.

reactant | 1-Boc-isonipecotic acid | 66.55 mmol, 15.26 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | sodium methoxide | 66.8 mmol, 3.8 g | C[O-].[Na+]
reactant | oxalyl chloride | 45 mmol, 4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-N-(5-chloropyridin-2-yl)-5-iodobenzamide | 23.7 mmol, 8.86 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)I | C12H9ClIN3O
reactant | N,N-diisopropylethylamine | 28 mmol, 5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 135 mL | CO | CH4O
solvent | dichloromethane | 95 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a couple of drops | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 2.7 mmol, 0.33 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-iodobenzamide | 8.6 g, 62% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)I | C23H26ClIN4O4
